US07425634B2
(11c) 2,3,5-trimethyl-4-nitropyridine 1-oxide
The 2,3,5-trimethylpyridine1-oxide (11.0 g, 80.2 mmol) obtained in the step (11b) was mixed with sulfuric acid (34.1 g, 348 mmol). After fuming nitric acid (5.50 ml, 133 mmol) was added dropwise to this mixture at room temperature, the mixture was stirred at 80° C. for 9 hours. The reaction mixture was cooled to room temperature and thereafter poured into ice. The obtained aqueous solution was extracted with chloroform three times. Organic layers were combined and dried over anhydrous magnesium sulfate, filtered and concentrated to obtain the title compound (13.6 g, yield: 93.1%) as a yellow solid.

reactant | 2,3,5-trimethylpyridine1-oxide | 80.2 mmol, 11.0 g | CC1=[N+](C=C(C=C1C)C)[O-] | C8H11NO
reactant | sulfuric acid | 348 mmol, 34.1 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 133 mmol, 5.50 ml | [N+](=O)(O)[O-] | HNO3
product | 2,3,5-trimethyl-4-nitropyridine 1-oxide | 13.6 g, yield: 93.1% | CC1=[N+](C=C(C(=C1C)[N+](=O)[O-])C)[O-] | C8H10N2O3
